US07420055B2
Synthesis of (oxazol-5-yl)-benzenesulfonyl Chloride
5-Phenyloxazole (2.0 g, mmol) in chloroform (50 ml) was cooled to 0° C. using an ice bath. Chlorosulfonic acid 4.8 g (2.7 ml, 3 eq) of was added slowly with stirring. The reaction mixture was heated to 70° C. for 16 h. The reaction mixture was then cooled to RT, quenched with ice and extracted with chloroform. The organic layer was washed with cold water, brine and concentrated. The brown solid obtained was purified by column chromatography using 5% ethyl acetate in pet ether as eluent, to yield a yellow solid.

reactant | 5-Phenyloxazole | 2.0 g | C1(=CC=CC=C1)C1=CN=CO1 | C9H7NO
reactant | Chlorosulfonic acid | 2.7 ml, 4.8 g, 3 eq | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | (oxazol-5-yl)-benzenesulfonyl Chloride | O1C=NC=C1C1=C(C=CC=C1)S(=O)(=O)Cl | C9H6ClNO3S
